US04816064
A mixture of 200 g (1.02 moles) of 2-ethylamino-4-hydroxy-6-isopropylamino-1,3,5-triazine, 454 g (8.11 moles) of potassium hydroxide, 1150 ml of diethylene glycol dimethyl ether and 1150 ml of water was vigorously stirred, and heated to 90° C. Chlorodifluoromethane gas was blown into the reaction mixture until 2-ethylamino-4-hydroxy-6-isopropylamino-1,3,5-triazine was no longer detected by thin-layer chromatography. After the reaction, the reaction mixture was cooled to room temperature, extracted with methylene chloride. The methylene chloride layer was washed with water twice or thrice, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The crude product was chromatographed on a silica gel column. The column was eluted with n-hexane/ethyl acetate (5:1) to give 58.9 g of 2-difluoromethoxy-4-ethylamino-6-isopropylamino-1,3,5-triazine.

reactant | 2-ethylamino-4-hydroxy-6-isopropylamino-1,3,5-triazine | 1.02 moles, 200 g | C(C)NC1=NC(=NC(=N1)O)NC(C)C | C8H15N5O
reactant | potassium hydroxide | 8.11 moles, 454 g | [OH-].[K+]
reactant | diethylene glycol dimethyl ether | 1150 ml | COCCOCCOC | C6H14O3
reactant | Chlorodifluoromethane | ClC(F)F | CHClF2
solvent | water | 1150 ml | O | H2O
product | 2-difluoromethoxy-4-ethylamino-6-isopropylamino-1,3,5-triazine | 58.9 g | FC(OC1=NC(=NC(=N1)NCC)NC(C)C)F | C9H15F2N5O
